US08633207B2
To a solution of methyl 4-bromo-2-(difluoro(5-fluoropyridin-2-yl)methyl)quinazoline-8-carboxylate (27 g, 65.5 mmol) in dioxane (300 mL) was added 5-methyl-1H-pyrazol-3-amine (12.7 g, 131 mmol) and the mixture was stirred at 50° C. overnight. The mixture was concentrated and the residue was triturated with water (1 L). The solid was collected by filtration, washed with water, and dried in air to afford methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazoline-8-carboxylate as a solid. (26.7 g, 95%). LC-MS (ESI) m/z 429.6 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 12.23 (1H, s), 10.86 (1H, s), 8.82 (1H, d, J=8.2 Hz), 8.67 (1H, d, J=2.6 Hz), 7.99 (3H, m), 7.68 (1H, t, J=8.0 Hz), 6.05 (1H, s), 3.83 (3H, s), 2.19 (3H, s).

reactant | methyl 4-bromo-2-(difluoro(5-fluoropyridin-2-yl)methyl)quinazoline-8-carboxylate | 65.5 mmol, 27 g | BrC1=NC(=NC2=C(C=CC=C12)C(=O)OC)C(C1=NC=C(C=C1)F)(F)F | C16H9BrF3N3O2
reactant | 5-methyl-1H-pyrazol-3-amine | 131 mmol, 12.7 g | CC1=CC(=NN1)N | C4H7N3
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazoline-8-carboxylate | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)C(=O)OC)(C1=NC=C(C=C1)F)F | C20H15F3N6O2
